US05576335
To a suspension of lithium aluminium hydride (0.61 g) in THF (30 ml) was added dropwise under ice-cooling a solution of N-(4-dimethylaminophenyl)-2-aminobenzamide (2.0 g) in THF (20 ml) and the mixture was heated finder reflux. To this mixture was added dropwise small portions of water, the insolubles were filtered, and the solvent was distilled off. Purification of the residue by a silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallization from ethyl acetate/hexane afforded N-(2-aminobenzyl)-N',N'-dimethyl-1,4-phenylenediamine (1.1 g, 56%).

reactant | lithium aluminium hydride | 0.61 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(4-dimethylaminophenyl)-2-aminobenzamide | 2.0 g | CN(C1=CC=C(C=C1)NC(C1=C(C=CC=C1)N)=O)C | C15H17N3O
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(2-aminobenzyl)-N',N'-dimethyl-1,4-phenylenediamine | 1.1 g, 56% | NC1=C(CNC2=CC=C(C=C2)N(C)C)C=CC=C1 | C15H19N3
